US07750002B2
2-(1H-Indazol-4-yl)-4-morpholin-4-yl-6-(4-pyrimidin-2-yl-piperazin-1-ylmethyl)-thieno[3,2-d]pyrimidine (86)
Prepared via 2-Chloro-4-morpholin-4-yl-6-(4-pyrimidin-2-yl-piperazin-1-ylmethyl)-thieno[3,2-d]pyrimidine, prepared from 1-(2-pyrimidyl)piperazine.

reactant | 2-Chloro-4-morpholin-4-yl-6-(4-pyrimidin-2-yl-piperazin-1-ylmethyl)-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C2=NC=CC=N2)N2CCOCC2 | C19H22ClN7OS
reactant | 1-(2-pyrimidyl)piperazine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
product | 2-(1H-Indazol-4-yl)-4-morpholin-4-yl-6-(4-pyrimidin-2-yl-piperazin-1-ylmethyl)-thieno[3,2-d]pyrimidine | N1N=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C2=NC=CC=N2)N2CCOCC2 | C26H27N9OS
